US06949542B2
(4-Methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from commercially available 4-methoxy-2-nitroaniline [CAS-No. 96-96-8] and Boc2O, followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as an orange solid (21.868 g).

reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
